US06001862
Methyl 5-(2,4-dioxothiazolidin-5-yl)methyl-2-methoxy-benzoate
Methyl 5-(2,4-dioxothiazolidin-5-ylidene)methyl-2-methoxy-benzoate (9.52 g) was suspended into DMF (250 ml) and hydrogenated with 10% palladium/carbon (10.0 g) at room temperature under a hydrogen pressure of 3.5 kg/cm2. After the reaction, the solution was filtered and concentrated and water was added to the residue, which was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by means of silica gel column chromatography (developing solvent; methylene chloride:acetone=50:1) to obtain 5.88 g (61%) of aimed compound as an amorphous material.

reactant | Methyl 5-(2,4-dioxothiazolidin-5-ylidene)methyl-2-methoxy-benzoate | 9.52 g | O=C1SC(C(N1)=O)=CC=1C=CC(=C(C(=O)OC)C1)OC | C13H11NO5S
catalyst | palladium/carbon | 10.0 g | [Pd] | Pd
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Methyl 5-(2,4-dioxothiazolidin-5-yl)methyl-2-methoxy-benzoate | 5.88 g, 61% | O=C1SC(C(N1)=O)CC=1C=CC(=C(C(=O)OC)C1)OC | C13H13NO5S
